.SUBCKT TL2575-ADJ VIN OUT ON_OFF_N FB GND 
X_U24         OUT VIN1_CL d_d1  
E_U_ABM5         CL 0 VALUE { IF (V(U_N16793991) > 0.5, 1, 0)    }
R_U_R3         VIN VIN1_CL  0.01 TC=0,0 
V_U_V2         VIN1 U_N16794112 0.028
X_U_U22         U_N16793993 U_N16793991 d_d1  
X_U_U23         U_N16794112 U_N16794054 U_N16793993 COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
R_U_R4         U_N16793993 U_N16793991  100k TC=0,0 
E_U_E6         U_N16794054 0 VALUE { V(VIN1_CL, GND) }
C_U_C2         U_N16793991 0  10p  TC=0,0 
E_E6         EN1 0 VALUE { V(ON_OFF_N, GND) }
X_U1         N16785629 N16780455 N16783088 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_E5         FB1 0 VALUE { V(FB, GND) }
X_U21         CL N16780558 N16780769 QB srlatchrhp_basic_gen PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_R5         GND ON_OFF_N  1E6 TC=0,0 
E_E4         VIN1 0 VALUE { V(VIN, GND) }
V_V1         REF 0 1.23
X_U25         N16780780 DUTYL N16784673 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_S1    N16784673 0 VIN1_CL N16782719 LM2575_S1 
E_EA_E2         EA_N00312 0 EA_N00344 0 1
R_EA_R1         REF EA_N00234  600 TC=0,0 
R_EA_R2         EA_N00234 EA_N00312  30k TC=0,0 
E_EA_E1         EA_N01722 0 FB1 EA_N00234 10k
R_EA_R3         EA_N01722 EA_N00344  2.229k TC=0,0 
C_EA_C1         0 EA_N00344  1u  TC=0,0 
E_EA_ABM1         N16785629 0 VALUE { LIMIT(V(EA_N00312), 2.4, 0.1)    }
V_V2         N16782719 OUT 0.6468
R_R4         VIN ON_OFF_N  1E9 TC=0,0 
X_OSC_U23         OSC_N16787282 EN1 OSC_EN_LL COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_OSC_ABM4         OSC_N16789934 0 VALUE { If(V(OSC_N16789883)<0.5,1,0)     }
C_OSC_C7         0 OSC_N16789883  1n  TC=0,0 


X_OSC_U24         N16780455 OSC_N16787864 OSC_DUTYH COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_OSC_V5         OSC_N16787282 0 1.3
X_OSC_S1    OSC_EN_LL 0 OSC_RAMP 0 Oscillator_OSC_S1 
C_OSC_C6         OSC_N16784936 0  10p  TC=0,0 


X_OSC_U22         OSC_N16784766 OSC_N16784936 N16780558 NAND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_OSC_U21         OSC_RAMP OSC_N16782728 OSC_N16784243 OSC_N167827641
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_OSC_R2         OSC_N167827641 OSC_TRF  1k TC=0,0 
E_OSC_ABM2         OSC_N16784766 0 VALUE { IF(V(N16780455)>0.755,1,0)    }
X_OSC_U26         OSC_N16789883 OSC_DUTYL d_d1  
G_OSC_ABMI2         0 OSC_RAMP VALUE { IF(V(OSC_EN_LL)>0.5,
+  (IF(V(OSC_TRF)>0.5,-V(OSC_FREQ),V(OSC_FREQ))),0)    }
E_OSC_ABM3         OSC_FREQ 0 VALUE { IF(V(FB1)<0.58,30.444m,83.33m)    }
X_OSC_U20         OSC_N16784936 OSC_N16784766 d_d1  
V_OSC_V6         OSC_N16787864 0 {0.75+0.04}
V_OSC_V7         OSC_N16788042 0 {1.7182-0.035}
R_OSC_R4         OSC_DUTYL OSC_N16789883  591.63 TC=0,0 
X_OSC_U25         N16780455 OSC_N16788042 OSC_DUTYL COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
R_OSC_R3         OSC_N16784766 OSC_N16784936  107k TC=0,0 
V_OSC_V3         OSC_N16782728 0 1.55
C_OSC_C5         OSC_TRF 0  10p 

  
E_OSC_ABM1         N16780455 0 VALUE { If(V(OSC_RAMP)>1.2,
+  (2.2105465*V(OSC_RAMP)*V(OSC_RAMP)-4.5932886*V(OSC_RAMP)+3.5287593),V(OSC_RAMP))
+       }
V_OSC_V4         OSC_N16784243 0 0.8
C_OSC_C1         0 OSC_RAMP  1u  TC=0,0 


X_OSC_U27         OSC_DUTYL OSC_N16789934 DUTYL AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U2         N16783088 N16780558 N16780769 N16780780 NOR3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
.IC         V(OSC_RAMP )=0

*$
.subckt LM2575_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1E6 Ron=0.3028 Voff=0.2 Von=0.8
.ends LM2575_S1
*$
.subckt Oscillator_OSC_S1 1 2 3 4  
S_OSC_S1         3 4 1 2 _OSC_S1
RS_OSC_S1         1 2 1G
.MODEL         _OSC_S1 VSWITCH Roff=1e9 Ron=1.0m Voff=0.8 Von=0.2
.ends Oscillator_OSC_S1
*$
.SUBCKT d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ENDS d_d1
*$
.SUBCKT srlatchrhp_basic_gen s r q qb params: vdd=1 vss=0 vthresh=0.5 
gq 0 qint value = {if(v(r) > {vthresh},-5,if(v(s)>{vthresh},5, 0))}
cqint qint 0 1n
rqint qint 0 1000000meg
d_d10 qint my5 d_d1
v1 my5 0 {vdd}
d_d11 myvss qint d_d1
v2 myvss 0 {vss} 
eq qqq 0 qint 0 1
x3 qqq qqqd1 buf_basic_gen params: vdd={vdd} vss={vss} vthresh={vthresh}
rqq qqqd1 q 1
eqb qbr 0 value = {if( v(q) > {vthresh}, {vss},{vdd})}
rqb qbr qb 1 
cdummy1 q 0 1n 
cdummy2 qb 0 1n
.ic v(qint) {vss}
.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1
.ENDS srlatchrhp_basic_gen
*
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
bE_ABM 0 Y i=IF (V(INP)>V(INM), {VDD},{VSS}) Rpar=1 Cpar=1n
.ENDS COMP_BASIC_GEN
*
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*

.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
ABUF A 0 0 0 0 0 Y 0 BUF Ref={VTHRESH} Vhigh={VDD} Vlow={VSS} Rout=1 Cout=1n tripdt=5n
.ENDS BUF_BASIC_GEN
*
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
AOR2 A B 0 0 0 0 Y 0 OR Ref={VTHRESH} Vhigh={VDD} Vlow={VSS} Rout=1 Cout=1n tripdt=5n
.ENDS OR2_BASIC_GEN
*
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
ANAND2 A B 0 0 0 Y 0 0 AND Ref={VTHRESH} Vhigh={VDD} Vlow={VSS} Rout=1 Cout=1n tripdt=5n
.ENDS NAND2_BASIC_GEN
*
.SUBCKT NOR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
ANOR3 A B C 0 0 Y 0 0 OR Ref={VTHRESH} Vhigh={VDD} Vlow={VSS} Rout=1 Cout=1n tripdt=5n
.ENDS NOR3_BASIC_GEN
*
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
AAND2 A B 0 0 0 0 Y 0 AND Ref={VTHRESH} Vhigh={VDD} Vlow={VSS} Rout=1 Cout=1n tripdt=5n
.ENDS AND2_BASIC_GEN
*
.ENDS TL2575-ADJ